US05073294
A mixture of 4-hydroxybenzoic acid (69.0 g, 0.5 mol), 10-chloro-1-decanol (106 g, 0.55 mol), potassium hydroxide (75 g, 1.15 mol), potassium iodide (0.1 g), and absolute ethanol (300 mL) was heated to reflux with mechanical stirring for 18 h. The mixture was diluted with water (800 mL) and stirred 0.5 h at room temperature. The mixture was acidified with 12N hydrochloric acid (125 mL) and the mixture stirred for 5 h. The material was allowed to sit overnight and filtered. The solid was washed with water and air dried 4 days. The solid was recrystallized from tetrahydrofuran (300 mL) to give 4-(10-hydroxydecyloxy)benzoic acid (85.2 g, 58%): mp 115°-117° C.; NMR (CDCl3 +d6DMSO) 7.93(d, 2H), 6.85(d, 2H), 4.0(t, 2H), 3.52(t, 2H), 3.48(bs, 1H), 1.9-1.2(m, 16H).

reactant | 4-hydroxybenzoic acid | 0.5 mol, 69.0 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | 10-chloro-1-decanol | 0.55 mol, 106 g | ClCCCCCCCCCCO | C10H21ClO
reactant | potassium hydroxide | 1.15 mol, 75 g | [OH-].[K+]
reactant | hydrochloric acid | 12N, 125 mL | Cl | ClH
solvent | water | 800 mL | O | H2O
catalyst | potassium iodide | 0.1 g | [I-].[K+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 4-(10-hydroxydecyloxy)benzoic acid | 85.2 g, 58% | OCCCCCCCCCCOC1=CC=C(C(=O)O)C=C1 | C17H26O4
